US07662771B2
Add sodium azide (2.14 g, 32.92 mmol) to a solution of 2-bromo-2′-methoxyacetophenone (5.01 g, 21.87 mmol) in 75 ml of DMSO. Stir the mixture at ambient temperature for 18 hours and dilute it with 250 ml of water. Extract the mixture with ether (3×). Dry the combined organic layers with MgSO4. Filter off the drying agent and concentrate in vacuo to afford 3.54 g of 2-azido-1-(2-methoxyphenyl)-ethanone.

reactant | sodium azide | 32.92 mmol, 2.14 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-bromo-2′-methoxyacetophenone | 21.87 mmol, 5.01 g | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
solvent | water | 250 ml | O | H2O
product | 2-azido-1-(2-methoxyphenyl)-ethanone | 3.54 g | N(=[N+]=[N-])CC(=O)C1=C(C=CC=C1)OC | C9H9N3O2
